US07253174B2
Synthesis of 3-[5-Cyano-4-[(2,2-dimethyl-propyl)-methyl-amino]-6-(4-methyl-[1,4]diazepan-1-yl)-pyrimidin-2-ylamino]-N-methoxy-4-methyl-benzamide
To a stirred mixture of 3-[4-[(2,2-dimethyl-propyl)-methyl-amino]-6-(4-methyl-[1,4]diazepan-1-yl)-pyrimidin-2-ylamino]-N-methoxy-4-methyl-benzamide (140 mg, 0.29 mmol) and sodium cyanide (0.044 g, 0.89 mmol) in sat. aq. sodium-bicarbonate (1 mL) and methylene chloride (3 mL) was added bromine (0.045 mL, 0.87 mmol). The resulting mixture was stirred for 16 h at room temp, then diluted with water and extracted with methylene chloride (2×15 mL). The combined organic layer was dried (sodium sulfate), filtered and concentrated under reduced pressure, and the product was purified by HPLC. C26H38N8O2 MS m/e=495 (M+H). Deprotection was performed as described in Example 75.

reactant | 3-[4-[(2,2-dimethyl-propyl)-methyl-amino]-6-(4-methyl-[1,4]diazepan-1-yl)-pyrimidin-2-ylamino]-N-methoxy-4-methyl-benzamide | 0.29 mmol, 140 mg | CC(CN(C1=NC(=NC(=C1)N1CCN(CCC1)C)NC=1C=C(C(=O)NOC)C=CC1C)C)(C)C | C25H39N7O2
reactant | sodium cyanide | 0.89 mmol, 0.044 g | [C-]#N.[Na+]
reactant | bromine | 0.87 mmol, 0.045 mL | BrBr | Br2
solvent | sodium bicarbonate | 1 mL | [Na].C([O-])(O)=O
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-[5-Cyano-4-[(2,2-dimethyl-propyl)-methyl-amino]-6-(4-methyl-[1,4]diazepan-1-yl)-pyrimidin-2-ylamino]-N-methoxy-4-methyl-benzamide | C(#N)C=1C(=NC(=NC1N1CCN(CCC1)C)NC=1C=C(C(=O)NOC)C=CC1C)N(C)CC(C)(C)C | C26H38N8O2
